US09281483B2
Step 3: Synthesis of 3-(2,6-diphenylphenyl)-imidazo[1,2-f]phenanthridine
A 200 ml round bottom flask was charged with 3-(2,6-dichlorophenyl)-imidazo[1,2-f]phenanthridine (2.1 g, 5.8 mmol), phenyl boronic acid (2.828 g, 23.4 mmol), Pd(OAc)2 (1.127 g, 5.02 mmol), 2-Dicyclohexylphosphino-2′,6′-dimethoxybiphenyl(4.11 g, 10.03 mmol), K3PO4 and 70 ml of anhydrous toluene. The reaction mixture was heated to 100° C. under nitrogen for 22 hrs. The reaction mixture was concentrated to dryness and subjected to column chromatography to obtain the title compound (1.62 g, 62% yield).

reactant | 3-(2,6-dichlorophenyl)-imidazo[1,2-f]phenanthridine | 5.8 mmol, 2.1 g | ClC1=C(C(=CC=C1)Cl)C1=CN=C2N1C=1C=CC=CC1C=1C=CC=CC21 | C21H12Cl2N2
reactant | phenyl boronic acid | 23.4 mmol, 2.828 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-Dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 10.03 mmol, 4.11 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(OAc)2 | 5.02 mmol, 1.127 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2,6-diphenylphenyl)-imidazo[1,2-f]phenanthridine | 1.62 g, 62% yield | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)C1=CN=C2N1C=1C=CC=CC1C=1C=CC=CC21 | C33H22N2
